US07115607B2
N-{(1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-(4-(2-pyridyl)piperazinyl)ethyl}(tert-butoxy)carboxamide was prepared according to the procedure for Preparation XIX using Boc-p-Cl-D-Phe-OH (550 mg, 1.8 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide methiodide (1.1 g, 3.80 mmol), HOAT (260 mg, 1.9 mmol), DMF (15 mL), and 1-(2-piperidyl)piperazine (280 μl, 1.8 mmol) (Aldrich). The crude material was concentrated in vacuo to yield 810 mg. MS (ESI, pos. ion) m/z: 445 (M+H), (ESI, neg. ion) m/z: 443 (M−H). Calc'd for C23H29ClN4O3: 444.95.

reactant | Boc-p-Cl-D-Phe-OH | 1.8 mmol, 550 mg | N([C@H](CC1=CC=C(C=C1)Cl)C(=O)O)C(=O)OC(C)(C)C | C14H18ClNO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide methiodide | 3.80 mmol, 1.1 g | CCN=C=NCCCN(C)C.CI
reactant | HOAT | 1.9 mmol, 260 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-(2-piperidyl)piperazine | 1.8 mmol, 280 μl | N1C(CCCC1)N1CCNCC1 | C9H19N3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-{(1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-(4-(2-pyridyl)piperazinyl)ethyl}(tert-butoxy)carboxamide | ClC1=CC=C(C=C1)C[C@H](C(N1CCN(CC1)C1=NC=CC=C1)=O)NC(=O)OC(C)(C)C | C23H29ClN4O3
